US06713474B2
A mixture of 4-iodophenol (25.0 g), 2-fluorobenzaldehyde (14.14 g), potassium carbonate (31.5 g) and dimethylformamide (500 ml) was heated at 120° C. under nitrogen with stirring for 15 hours. The mixture was cooled to ambient temperature and filtered. Water (500 ml) was added to the filtrate and the mixture was extracted with ethyl acetate to give a solid which was triturated with hot hexane (500 ml). The supernatant liquid was decanted from a residual gum and cooled. The solid which precipitated was collected by filtration to give 2-(4-iodophenoxy) benzaldehyde, m.p. 84.5-86° C.

reactant | 4-iodophenol | 25.0 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | 2-fluorobenzaldehyde | 14.14 g | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | potassium carbonate | 31.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
product | 2-(4-iodophenoxy) benzaldehyde | IC1=CC=C(OC2=C(C=O)C=CC=C2)C=C1 | C13H9IO2
